US04839353
To a solution of 5-methyl-2-(1-napthoyl)-4-piperidinopyridine in 1 ml of triethylene glycol was added 30 mg of 100% hydrazine hydrate, and the mixture was stirred at 120° C. for 1.5 hours. Potassium hydroxide (42 mg) was added to the reaction mixture, and the mixture was heated at about 200° C. for 1 hour. The reaction mixture was poured into water, and extracted with ether. The ether layer was washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography [eluted with chloroform and then with chloroform/methanol (=50/1)] to give 5-methyl-2-(1-naphthylmethyl)-2-piperidinopyridine as an oil. The oil was treated with an ethanol solution of hydrogen chloride and recrystallized from acetone/ether to give 44 mg (yield 40%) of the captioned compound.

reactant | 5-methyl-2-(1-napthoyl)-4-piperidinopyridine | CC=1C(=CC(=NC1)C(=O)C1=CC=CC2=CC=CC=C12)N1CCCCC1 | C22H22N2O
reactant | hydrazine hydrate | 30 mg | O.NN
reactant | Potassium hydroxide | 42 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | triethylene glycol | 1 ml | C(COCCOCCO)O | C6H14O4
product | 5-methyl-2-(1-naphthylmethyl)-2-piperidinopyridine | CC=1C=CC(NC1)(N1CCCCC1)CC1=CC=CC2=CC=CC=C12 | C22H26N2
